* C:\Users\Sunray\Documents\Bioimpedance AFE\Simulation\Input Stage MFB.asc
V1 +3.3V 0 3.3V
V2 N005 N011 0 AC 20m 0
R1 N001 N004 1
R2 N009 N006 4k
C3 N009 N008 0.8µ
C1 N001 N006 50n
R3 N006 N012 1
R4 N008 N006 23
V3 1.65V 0 1.65
R5 N003 N001 23
C4 N002 N003 0.8µ
R6 N002 N001 4k
C5 N007 N010 1n
R7 N007 N002 33
R8 N010 N009 33
XU3 N005 N004 +3.3V 0 N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU1 N011 N012 +3.3V 0 N012 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 N003 1.65V +3.3V N002 N009 0 +3.3V N008 LTC6362
* .ac dec 10 1k 2000k
.tf n002 V2
.lib LTC7.lib
.lib UniversalOpAmp2.lib
.backanno
.end
