* C:\Users\Sunray\Documents\Bioimpedance AFE\Simulation\Mirrored EHCP - Real Opamp.asc
V1 3.3V 0 3.3V
C2 N006 N005 100n
R11 N006 N014 {RLOAD}
C1 N014 N010 100n
C3 N006 N014 2n
V6 N008 0 1.65
R13 N002 N004 50
R14 N013 N015 50
C6 3.3V 0 0.1µ
R17 N005 N010 10Meg
V2 N003 N008 SINE(0 0.5 10k) Rser=1
R1 N001 N003 {mc(10k, 0.001)}
R2 N007 N008 {mc(10k, 0.001)}
R3 N002 N001 {mc(10k, 0.001)}
R4 N009 N007 {mc(10k, 0.001)}
R6 N012 N013 {mc(10k, 0.001)}
R7 N008 N012 {mc(10k, 0.001)}
R8 N003 N016 {mc(10k, 0.001)}
R9 N016 N017 {mc(10k, 0.001)}
R5 N005 N002 {mc(5k, 0.001)}
R12 N010 N013 {mc(5k, 0.001)}
C5 0 N011 10n
XU5 N007 N001 3.3V 0 N004 AD8608
XU1 N016 N012 3.3V 0 N015 AD8608
XU2 N005 N009 3.3V 0 N009 AD8608
XU3 N010 N017 3.3V 0 N017 AD8608
R15 N006 N011 10Meg
R16 N011 N014 10Meg
.tran 0 1m 0 100m uic
.options srcsteps=0
.step param RLOAD 100 10k 1k
* .step param run 1 1 1
.lib ADI.lib
.backanno
.end
