* C:\Users\Sunray\Documents\Bioimpedance AFE\Simulation\Custom Symbols\Draft1.asc
XU1 N002 N004 1.65V MEAS- MEAS+ 0 3.3V THS4535
R1 N002 N001 665
R2 MEAS+ N001 680
C1 MEAS+ N002 100p
C2 MEAS- N004 100p
R3 N006 N005 665
V1 3.3V 0 3.3V
R4 MEAS- N006 680
R5 N004 N006 665
C3 N001 N006 10n
V2 1.65V 0 1.65V
R6 N001 N003 665
V3 N003 N005 AC 1 0
.ac oct 10 1 2Meg
.lib THS4535.lib
.backanno
.end
