* THS4535 - Rev. 1.1
* Created by Alec Saebeler; 2025-11-17
* Created with Green-Williams-Lis Current Sense Amp Macro-model Architecture
* Copyright 2025 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* AC PARAMETERS
**********************
* CLOSED-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zout vs. Freq.)
* CLOSED-LOOP GAIN AND PHASE VS. FREQUENCY CL EFFECTS (Acl vs. Freq.)
* COMMON-MODE REJECTION RATIO @ DC (CMRR)
* POWER SUPPLY REJECTION RATIO @ DC FREQUENCY (PSRR)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en vs. Freq.)
**********************
* DC PARAMETERS
**********************
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vout vs. Iout)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* INPUT CURRENT NOISE (in)
**********************
* TRANSIENT PARAMETERS
**********************
* SLEW RATE (SR)
**********************
* Change log
*Rev 1.0 to Rev 1.1: Update IQ to match validated silicon, confirm AC & DC performance
**********************
*
*****************************************************************************
.SUBCKT THS4535 IN+ IN- VOCM OUT+ OUT- VDD VSS
*****************************************************************************
* source THS4535
* PSpice Text Block on Netlist_C_diff_tuned Cdiff_Tuned_Low
.MODEL R_NOISELESS RES (T_ABS=-273.15)
***
R_R336         VSS_B 0 R_NOISELESS 1
R_R309         N3230144 N3230064 R_NOISELESS 1e-3
R_R349         VSENSE MID R_NOISELESS 1e3
C_C51         N3233364 0  1
C_C41         MID N3229532  1e-15
R_R318         MID N3231850 R_NOISELESS 1e9
X_CLAWN1         MID VIMON VSS_B N3229664 CLAWN
I_I_OS1         MID ESDN DC 20e-12
C_C49         INN MID  1e-15
R_Rx4p3         ZOUT+ AOLZO+ R_NOISELESS 4.9745e5
R_R341         MID N3227516 R_NOISELESS 1
C_C1b14         MID N3228250  3.121e-17
X_U11         N3227500 MID N3227392 MID ZO_SRC
G_G137         N3233556 MID VDD_B MID 3.090e-3
R_R295         N3229664 VSS_B R_NOISELESS 1e3
R_R2a44         MID N3227424 R_NOISELESS 1.135e2
G_G141         VSS_B 0 VSS 0 -1
X_VCM_CLAMP3         N3230072 MID N3230562 MID N3230380 N3230954 VCM_CLAMP
G_G125         N3230072 N3230064 PSRR+ PSRR- -1e-3
G_G138         N3233576 MID N3233566 MID -1
R_R328         N3234120 N3233364 R_NOISELESS 1e6
R_R326         MID N3233400 R_NOISELESS 1e9
R_R348         MID N3227392 R_NOISELESS 1
G_G131         CLAW_CLAMP MID VSENSE MID -1
C_C_VOUT_S1         MID VOUT_S  1e-12
C_C1b13         MID N3228236  1.339e-13
R_R283         N3227582 MID R_NOISELESS 1
R_R333         PSRR- MID R_NOISELESS 1
C_C44         INP MID  1e-15
C_C1c11         N3227490 N3227500  5.332e-14
C_C40         MID N3228990  1e-15
G_G121         N3227582 MID ESDP MID 1.635e-4
R_R2b19         N3233586 MID R_NOISELESS 1.364e7
G_Gb8         N3227490 MID N3227472 MID -1
E_E12         N3228212 MID ZOUT+ ZOUT- 1
R_R286         N3228968 VDD_B R_NOISELESS 1e3
G_G122         N3227602 MID N3227592 MID -1
C_C_VIMON2         MID VIMON  1e-12
G_G139         PSRR+ MID N3233586 MID 8.332
G_G134         N3233450 MID VSS_B MID 3.090e-3
C_C53         MID N3226926  1e-15
R_R351         MID N3226522 R_NOISELESS 1e9
R_R34         VOCM_FB MID R_NOISELESS 1e6
V_VCM_MIN4         N3232638 VSS_B -0.2
X_IQ_P3         VIMON MID VDD MID IQ_SRC
R_R321         INN N3232066 R_NOISELESS 1e-3
G_G148         AOL MID CLAW_CLAMP MID -1e-3
C_C45         MID CLAMP  4.741e-6
V_VCM_MAX4         N3231578 VDD_B -1.1
R_R1a35         N3227424 N3227414 R_NOISELESS 1e4
E_E17         MID 0 N3233364 0 1
R_R356         MID N3227134 R_NOISELESS 1e9
G_G135         N3233470 MID N3233460 MID -1
C_C_CMP1         ESDP MID  1.2e-12
C_C42         MID N3229756  1e-15
R_Rx4p4         ZOUT- AOLZO- R_NOISELESS 4.9745e5
X_U17         OUT- VDD VSS esd_out
G_G123         N3228352 MID N3227612 MID 7.561
R_R281         MID N3227490 R_NOISELESS 1
X_VCM_CLAMP4         N3232376 MID N3232066 MID N3231578 N3232638 VCM_CLAMP
R_R312         N3231218 N3231014 R_NOISELESS 1.5e5
R_R332         N3233470 MID R_NOISELESS 1
R_R306         N3230380 MID R_NOISELESS 1e9
R_R_VIMON2         VIMON N3231850 R_NOISELESS 100
R_R2a48         N3233566 MID R_NOISELESS 5.627e4
X_U14         ESDP N3230738 vnse
V_V11         N3227134 MID -600
G_G136         PSRR- MID N3233480 MID 8.332
G_G146         N3227516 MID VOCM_FB MID -1000
R_R291         N3229504 MID R_NOISELESS 1
C_C1a44         N3227414 N3227424  2.122e-3
R_R353         N3226926 N3226898 R_NOISELESS 1e-3
R_R297         MID N3229802 R_NOISELESS 1
R_R2b15         N3227612 MID R_NOISELESS 1.524e7
R_R334         VDD_B 0 R_NOISELESS 1
R_R1b13         N3228236 N3227444 R_NOISELESS 1e4
I_I_Q1         VDD VSS DC 4.7e-3
G_G140         VDD_B 0 VDD 0 -1
R_R2b13         N3227444 N3227434 R_NOISELESS 1.890e3
R_R290         N3228990 N3228968 R_NOISELESS 1e-3
R_R355         MID N3227050 R_NOISELESS 1
R_R352         N3226898 MID R_NOISELESS 1
V_V12         N3226522 MID 600
R_R293         N3229756 N3229664 R_NOISELESS 1e-3
X_IQ_P2         VIMON2 MID VDD MID IQ_SRC
R_R287         VDD_CLP MID R_NOISELESS 1e3
G_G120         N3227462 MID N3227444 MID -1
R_R1a39         N3233556 N3233566 R_NOISELESS 1e8
R_R322         ESDN IN- R_NOISELESS 10e-3
R_R279         MID N3227434 R_NOISELESS 1
G_G147         VSENSE MID CLAMP MID -1e-3
R_R331         N3233450 MID R_NOISELESS 1
C_C1b18         N3233470 N3233480  1.768e-16
C_C46         MID CLAW_CLAMP  4.754e-18
R_R315         CLAW_CLAMP MID R_NOISELESS 1
E_E15         N3230104 MID VSS_CLP VDD_CLP 1
R_R300         N3230064 N3230072 R_NOISELESS 1e3
G_G126         VSS_CLP MID N3229756 MID -1E-3
X_CLAW_SRC1         N3229532 N3229816 CLAW_CLAMP MID CLAW_SRC
X_H5    OUT+ ZOUT+ N3231850 MID Netlist_C_diff_tuned_H5
R_R2a45         N3227592 MID R_NOISELESS 4.430e3
R_R320         N3231578 MID R_NOISELESS 1e9
R_R1a36         N3227582 N3227592 R_NOISELESS 1e8
R_R339         PSRR+ MID R_NOISELESS 1
R_R1c11         N3227500 N3227490 R_NOISELESS 1e4
R_R1b19         N3233576 N3233586 R_NOISELESS 1e8
R_R329         N3233364 N3234158 R_NOISELESS 1e6
X_U13         OUT+ VDD VSS esd_out
C_C1a47         N3233450 N3233460  3.774e-14
E_E16         N3231878 MID OUT+ OUT- 1
R_R1b15         N3227602 N3227612 R_NOISELESS 1e8
R_R_VIMON3         N3233400 VIMON2 R_NOISELESS 100
X_VOS_DRIFT1         N3230136 N3230738 VOS_DRIFT
V_VCM_MAX3         N3230380 VDD_B -1.1
R_R1a38         N3233450 N3233460 R_NOISELESS 1e8
X_H6    OUT- ZOUT- N3233400 MID Netlist_C_diff_tuned_H6
R_R314         MID CLAMP R_NOISELESS 1e6
R_R313         MID N3231106 R_NOISELESS 1e6
E_E19         AOLZO- N3227516 N3227392 MID -0.5
R_Rdummy_diff         ZOUT+ ZOUT- R_NOISELESS 9.949e4
R_R350         AOL MID R_NOISELESS 1e3
C_C_DIFF1         ESDN ESDP  3e-12
X_GR_AMP         N3226522 N3227134 N3226940 MID N3226898 N3227050 CLAMP_AMP_LO
G_G5         VOCM_FB MID VOCM VOCM_AMP -1e-6
R_R325         MID N3232638 R_NOISELESS 1e9
G_G124         VDD_CLP MID N3228990 MID -1E-3
R_R319         MID N3231878 R_NOISELESS 1e9
C_C43         N3229816 MID  1e-15
R_R292         N3229532 N3229504 R_NOISELESS 1e-3
R_R282         AOLZO- VOCM_AMP R_NOISELESS 0.5
C_C50         N3234120 0  1e-15
X_U15         N3230738 MID femt_ths4535
R_R1b18         N3233470 N3233480 R_NOISELESS 1e8
R_R278         MID N3227414 R_NOISELESS 1
C_C1b19         N3233576 N3233586  1.768e-16
X_IQ_N3         MID VIMON MID VSS IQ_SRC
X_U16         ESDN MID femt_ths4535
R_R324         MID N3232066 R_NOISELESS 1
R_R_VOUT_S1         VOUT_S N3231878 R_NOISELESS 100
R_R338         N3233576 MID R_NOISELESS 1
X_AOL_4         N3231106 MID MID CLAMP AOL_2
C_C54         N3227064 MID  1e-15
R_R354         N3227064 N3227050 R_NOISELESS 1e-3
R_R327         VDD_B N3234120 R_NOISELESS 1e-3
R_R335         N3233364 0 R_NOISELESS 1e12
V_VCM_MIN3         N3230954 VSS_B -0.2
X_U18         N3226926 N3227064 MID CLAMP GR_SRC
R_R357         N3226940 VSENSE R_NOISELESS 1e-3
R_R2c11         MID N3227500 R_NOISELESS 2.48429e3
R_R2b18         N3233480 MID R_NOISELESS 1.364e7
E_E18         AOLZO+ N3227516 N3227392 MID 0.5
G_G118         N3227414 MID AOL N3228212 -88.889
C_C1a48         N3233556 N3233566  3.774e-14
R_R285         N3228352 MID R_NOISELESS 1
X_CLAWP1         VIMON MID N3228968 VDD_B CLAWP
R_R1b14         N3228250 N3227472 R_NOISELESS 1e4
R_R308         ESDP IN+ R_NOISELESS 10e-3
X_CLAW_AMP1         N3227728 N3230104 VOUT_S MID N3229504 N3229802 CLAMP_AMP_LO
+
C_C_VIMON3         VIMON2 MID  1e-12
G_G119         N3227434 MID N3227424 MID -8.912e1
R_R294         N3229816 N3229802 R_NOISELESS 1e-3
X_W4    N3231218 ESDN ESDP ESDN Netlist_C_diff_tuned_W4
R_R310         MID N3230562 R_NOISELESS 1
R_R2b14         N3227472 N3227462 R_NOISELESS 4.09949e4
C_C1b15         N3227602 N3227612  3.363e-16
X_W3    N3231014 ESDP ESDP ESDN Netlist_C_diff_tuned_W3
R_R323         ESDN N3232376 R_NOISELESS 1e-3
R_R280         MID N3227462 R_NOISELESS 1
R_R2a47         N3233460 MID R_NOISELESS 5.627e4
R_R311         MID N3230954 R_NOISELESS 1e9
R_R337         N3233556 MID R_NOISELESS 1
R_R288         MID N3227728 R_NOISELESS 1e9
R_R284         N3227602 MID R_NOISELESS 1
C_C52         N3234158 0  1e-15
E_E13         N3227728 MID VDD_CLP VSS_CLP 1
C_C1a45         N3227582 N3227592  1.004e-12
G_G130         N3230144 N3230136 N3228352 MID -1e-3
X_IQ_N2         MID VIMON2 MID VSS IQ_SRC
X_AOL_3         INP INN MID N3231106 AOL_1
I_I_B1         MID N3230738 DC 20e-12
R_R307         INP N3230562 R_NOISELESS 1e-3
R_R330         N3234158 VSS_B R_NOISELESS 1e-3
R_R299         MID N3230104 R_NOISELESS 1e9
C_C_CMN1         MID ESDN  1.2e-12
R_R277         VOCM_AMP AOLZO+ R_NOISELESS 0.5
R_R305         N3230136 N3230144 R_NOISELESS 1e3
R_R296         VSS_CLP MID R_NOISELESS 1e3
C_C2         MID VOCM_FB  9.057e-15
.ends THS4535
.subckt Netlist_C_diff_tuned_H5 1 2 3 4
H_H5         3 4 VH_H5 -1e3
VH_H5         1 2 0V
.ends Netlist_C_diff_tuned_H5
.subckt Netlist_C_diff_tuned_H6 1 2 3 4
H_H6         3 4 VH_H6 -1e3
VH_H6         1 2 0V
.ends Netlist_C_diff_tuned_H6
.subckt Netlist_C_diff_tuned_W4 1 2 3 4
VW_W4        1 2 0V
H_W4         ctrl 0 VW_W4 1
S_W4         3 4 ctrl 0 SWMOD_W4
.model SWMOD_W4 SW(Ron=1 Roff=10Meg Vt=6.333u Vh=0.333u)
.ends Netlist_C_diff_tuned_W4
.subckt Netlist_C_diff_tuned_W3 1 2 3 4
VW_W3        1 2 0V
H_W3         ctrl 0 VW_W3 1
S_W3         3 4 ctrl 0 SWMOD_W3
.model SWMOD_W3 SW(Ron=1 Roff=10Meg Vt=6.333u Vh=0.333u)
.ends Netlist_C_diff_tuned_W3
* SUBCIRCUIT BLOCKS for MODELING
.subckt AOL_1 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
*
.subckt AOL_2 VC+ VC- IOUT+ IOUT-
.param Gain = 3.508e1
.param Ipos = 224.707
.param Ineg = -272.517
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
.subckt CLAMP_AMP_HI VC+ VC- VIN COM VO+ VO-
.param G=10
* Output G(COM,0) when condition not met
GVoP COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVoN COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*$
*
.subckt CLAMP_AMP_LO VC+ VC- VIN COM VO+ VO-
.param G=1
* Output G(COM,0) when condition not met
GVoP COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVoN COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends
*$
*
.subckt CLAWn VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 4.00e-6)
+(49.01, 3.59e-4)
+(103.32, 8.60e-4)
+(136.6, 1.30e-3)
+(165.25, 2.43e-3)
.ends
*$
*
.subckt CLAWp VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 3.00e-6)
+(61.27, 4.40e-4)
+(97.86, 7.48e-4)
+(112.271, 8.91e-4)
+(130.22, 1.09e-3)
+(153.11, 1.43e-3)
+(179.51, 2.33e-3)
.ends
*$
*
.subckt CLAW_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 5.24e-2
.param Ineg = -4.59e-2
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
*
.subckt CL_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 1.05e-1
.param Ineg = -9.19e-2
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
*
.subckt ESD_BB ESDn ESDp
.model ESD_SW SW(Ron=50 Roff=1e12 Vt=0.675 Vh=0.025)
S1         ESDn ESDp ESDn ESDp ESD_SW
S2         ESDp ESDn ESDp ESDn ESD_SW
.ends
*$
*
.subckt ESD_IN ESDn ESDp VDD VSS
.model ESD_SW SW(Ron=50 Roff=1e12 Vt=0.475 Vh=0.025)
S1 VDD ESDn ESDn VDD ESD_SW
S2 VDD ESDp ESDp VDD ESD_SW
S3 ESDn VSS VSS ESDn ESD_SW
S4 ESDp VSS VSS ESDp ESD_SW
.ends
*$
*
.subckt ESD_OUT OUT VDD VSS
.model ESD_SW SW(Ron=50 Roff=1e12 Vt=0.475 Vh=0.025)
S1 VDD OUT OUT VDD ESD_SW
S2 OUT VSS VSS OUT ESD_SW
.ends
*$
* FEMT_THS4535 - input current noise in fA/rt-Hz
.subckt FEMT_THS4535 1 2
* Input variables
* Set up 1/f noise
* FLWF = 1/f frequency in Hz
.param FLWF=1e-3
* NLFF = current noise density at 1/f frequency in fA/rt(Hz)
.param NLFF=69
* Set up broadband noise
* NVRF = broadband current noise density in fA/rt(Hz)
.param NVRF=69
* Calculated values
.param GLFF={PWR(FLWF,0.25)*NLFF/1164}
.param RNVF={1.184*PWR(NVRF,2)}
.model DVNF D KF={PWR(FLWF,0.5)/1e11} IS=1.0e-16
* Circuit connections
I1 0 7 10e-3
I2 0 8 10e-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1e9
R2 3 0 1e9
R3 3 6 1e9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1e9
R7 4 0 1e9
G1 1 2 3 4 1e-6
.ends
*$
*
.subckt GR_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.189
.param Ineg = -0.189
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends
*$
*
.subckt IQ_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends
*$
*
.subckt OL_SENSE 1   2  3  4
* pins          COM SW+ OLN OLP
GSWP 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends
*$
*
.subckt SW_OL SW_OL MID CAP_L CAP_R
.model OL_SW SW(Ron=1e-3 Roff=1e9 Vt=0.85 Vh=0.05)
S1 CAP_L CAP_R SW_OL MID OL_SW
.ends
*$
*
.subckt SW_OR CLAMP OLN OLP
.model OR_SW SW(Ron=10e-3 Roff=1e9 Vt=0.005 Vh=0.005)
S1 OLP CLAMP CLAMP OLP OR_SW
S2 CLAMP OLN OLN CLAMP OR_SW
.ends
*$
*
.subckt VCM_CLAMP VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends
*$
*
.subckt VNSE 1 2
.param FLW=100
.param NLF=23.16942
.param NVR=4.2536
.param GLF={PWR(FLW,0.25)*NLF/1164}
.param RNV={1.184*PWR(NVR,2)}
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* Circuit connections
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends
*$
*
.subckt VOS_DRIFT VOS+ VOS-
.param DC = 4.991e-3
.param POL = 1
.param DRIFT = 0.3e-6
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ends
*$
*
.subckt VOS_VS_VCM V+ V- REF+ REF-
* Positive rail Vos
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(0.35, 450e-6)
+(0.4, 435e-6)
+(0.55, 275e-6)
+(0.65, 150e-6)
+(0.75, 75e-6)
+(0.85, 25e-6)
+(1, 0)
* Negative rail Vos
V1 1 V- 0
.ends
*$
*
.subckt ZO_SRC VC+ VC- IOUT+ IOUT-
.param Gain = 3.350e2
.param Ipos = 120e3
.param Ineg = -120e3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends

